US05919807
a) 2-Chloro-6-ethoxy-benzothiazole
20 g (0.103 mol) of 2-amino-6-ethoxy-benzothiazole are dissolved in 100 ml of glacial acetic acid and 52 ml of concentrated hydrochloric acid and whilst cooling with ice the mixture is diazotised with 7.4 g (0.108 mol) of sodium nitrite in 15 ml of water. Then the solution of the diazonium salt is added batchwise to a suspension of 13.6 g (0.137 mol) of copper-I-chloride in 65 ml of concentrated hydrochloric acid and stirred for 20 minutes at 30° C. Then the mixture is diluted with 800 ml of ice water and the crystals formed are suction filtered. To purify them they are chromatographed on silica gel (eluant: petroleum ether/ethyl acetate=6:1). Yield: 61.7% of theory, Melting point: 60-61° C.

reactant | 2-amino-6-ethoxy-benzothiazole | 0.103 mol, 20 g | NC=1SC2=C(N1)C=CC(=C2)OCC | C9H10N2OS
reactant | sodium nitrite | 0.108 mol, 7.4 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 65 ml | Cl | ClH
reactant | hydrochloric acid | 52 ml | Cl | ClH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 15 ml | O | H2O
product | 2-Chloro-6-ethoxy-benzothiazole | Yield: 61.7% | ClC=1SC2=C(N1)C=CC(=C2)OCC | C9H8ClNOS
